US04188486
Preparation of 2-(m-ethylphenyl)benzimidazole
2.2 g. of o-phenylenediamine and 3.1 g. of m-ethylbenzonitrile were dissolved in 30 ml. of methanol. To the solution was added 1.1 g. of sodium methoxide in methanol. The mixture was stirred at 60° C. for 2 hours, acidified with acetic acid, stirred again at 100° C. for additional 3 hours and poured in 100 ml. of water. The resulting crystals were filtered off, dried and recrystallized from ethyl acetate. 2.7 g. of the product (60% of theory) was obtained. The product was identical to that obtained in Example 23.

reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | m-ethylbenzonitrile | C(C)C=1C=C(C#N)C=CC1 | C9H9N
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-(m-ethylphenyl)benzimidazole | C(C)C=1C=C(C=CC1)C=1NC2=C(N1)C=CC=C2 | C15H14N2
